US05911970
Preparation of N-[2-(4-bromophenyl) acetyl]-N-methyl-2-(1-piperidinyl)ethylamine
To a solution of 4-bromophenylacetic acid (10 g, 46.5 mmol) in CHCl3 (100 ml) was added thionyl chloride (8 ml) in CHCl3 (10 ml) and three drops of DMF. The mixture was reflux for one to two hours. The volatiles were removed in vacuo to give a light yellow oil. This acid chloride was dissolved in CHCl3 30 ml and added dropwise to another flask containing N-methyl-2-(1-piperidinyl)ethyl amine (6.1 g, 48 mmol) and triethylamine (25 ml) and CHCl3 (100 ml) at 0° C. The reaction mixture was stirred overnight at room. The volatiles were removed, the residue dissolved in CHCl3 (150 ml) and washed with (2×100 ml) water and 2% NaHCO3 (50 ml). The organic layer was dried and the volatiles were removed to give a light yellow oil (15.0 g). The oil was passed through a silica gel column and eluted with CHCl3 /MeOH to give 13 g, (87%) of the desired pure compound. 1H NMR 1.30-1.54 (m, 6H, piperidinyl CH2); 2.33-2.43 (m, 6H, NCH2); 2.92 (44%), 2.96 (56%) (s, 3H, N-Me); 3.32-3.37 (46%), 3.45-3.49 (54%), (t, 2H, J=7.1 Hz, NCH2); 3.61 (56%), 3.67 (44%), (s, 2H, benzylic); 7.09-7.11 (d, 2H, arom); 7.38-7.41 (d, 2H, arom).

reactant | 4-bromophenylacetic acid | 46.5 mmol, 10 g | BrC1=CC=C(C=C1)CC(=O)O | C8H7BrO2
reactant | thionyl chloride | 8 ml | S(=O)(Cl)Cl | Cl2OS
reactant | N-methyl-2-(1-piperidinyl)ethyl amine | 48 mmol, 6.1 g | CNCCN1CCCCC1 | C8H18N2
reactant | triethylamine | 25 ml | C(C)N(CC)CC | C6H15N
solvent | CHCl3 | 100 ml | C(Cl)(Cl)Cl | CHCl3
solvent | CHCl3 | 10 ml | C(Cl)(Cl)Cl | CHCl3
catalyst | DMF | three drops | CN(C)C=O | C3H7NO
solvent | CHCl3 | 30 ml | C(Cl)(Cl)Cl | CHCl3
solvent | CHCl3 | 100 ml | C(Cl)(Cl)Cl | CHCl3
product | N-[2-(4-bromophenyl) acetyl]-N-methyl-2-(1-piperidinyl)ethylamine | 15.0 g | BrC1=CC=C(C=C1)CC(=O)N(C)CCN1CCCCC1 | C16H23BrN2O
